US05212187
N-[4-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]butyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 0.55 g (1.6 mmol) of N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,4-butanediamine and the equimolar amounts of 1,1'-carbonyldiimidazole and 3-[3-(piperidinomethyl)phenoxy]propylamine as starting materials. Working up by chromatography analogously to Example 63 yields the purified title compound in the form of a viscous oil; MS (+FAB method): m/z (rel. int. [%])=617 ([M+H]+, 1), 121 (100); IR (KBr): 1603 cm-1 (C=O). For further analysis, a portion of the compound is converted into the picric acid salt and recrystallised from ethanol; m.p.: 68°-72° C. (ethanol).

reactant | N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methyl-1,4-butanediamine | 1.6 mmol, 0.55 g | COC1=CC=C(CN(C2=NC=CC=C2)CCN(CCCCN)C)C=C1 | C20H30N4O
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propylamine | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
product | N-[4-[N-[2-[N-(4-methoxybenzyl)-N-(2-pyridyl)amino]ethyl]-N-methylamino]butyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | COC1=CC=C(CN(C2=NC=CC=C2)CCN(C)CCCCNC(=O)NCCCOC2=CC(=CC=C2)CN2CCCCC2)C=C1 | C36H52N6O3
